US07507729B2
b) (4-Ethyl-2,3-dioxo-piperazin-1-yl)-acetic acid hydrazide
As described for example 112a, (4-ethyl-2,3-dioxo-piperazin-1-yl)-acetic acid ethyl ester in ethanol was reacted with hydrazine hydrate (1.2 equivalents) and the resulting mixture heated under reflux for 16 h. The precipitated product was filtered off and dried to afford the title compound as a white solid (yield: 77%). MS: m/e=215.4 [M+H]+.

reactant | (4-ethyl-2,3-dioxo-piperazin-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C(N(CC1)CC)=O)=O)=O | C10H16N2O4
reactant | hydrazine hydrate | 1.2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (4-Ethyl-2,3-dioxo-piperazin-1-yl)-acetic acid hydrazide | yield: 77% | C(C)N1C(C(N(CC1)CC(=O)NN)=O)=O | C8H14N4O3
